US20010049445A1
reacting methyl 3-oxovalerate (commercially available) with bromine to give methyl 4-bromo-3-oxovalerate, or reacting ethyl 3-oxovalerate (commercially available) with bromine to give ethyl 4-bromo-3-oxovalerate,

reactant | ethyl 3-oxovalerate | O=C(CC(=O)OCC)CC | C7H12O3
reactant | bromine | BrBr | Br2
product | ethyl 4-bromo-3-oxovalerate | BrC(C(CC(=O)OCC)=O)C | C7H11BrO3
